* Testcase 6

* Elemento    n+       n-       nx+      nx-   valor
R_Rleft       node_A        0                      5
R_Rtopleft    node_A   node_B                     10
R_Rmiddle     node_B   node_C                      3
I_Itop        node_B   node_D                      3
I_Iright      node_D   node_C                      2
V_Vbottom     node_C        0                     18
V_Vright      node_D   node_E                      9
V_Vright_erro node_E   node_F   node_A   node_B    3
R_Rright      node_F        0                      9

